US07084166B2
Preparation of 4,4-di-(1H-indolyl-)butanoic acid (ST 1961)
282 mg of indole (2.4 mmol) were dissolved in 10 ml of CH3OH and 5 ml of H2O; 102 mg of semisuccinic aldehyde (1 mmol) and 240 mg of dysprosium triflate-(CF3SO3)3Dy-(0.393 mmol) were added. The resulting solution was stirred at 35° C. for 24 hours. At the end of that period the methanol was removed under vacuum and the residue was extracted with ethyl acetate (3×50 ml). The organic extracts were pooled, washed with a small amount of water, dried on anhydrous Na2SO4, filtered and concentrated to dryness. The end product was isolated and purified chromatographically on an SiO2 column, using a hexane:isopropyl alcohol gradient ranging from 9:1 to 8:2.

reactant | indole | 2.4 mmol, 282 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | H2O | 5 ml | O | H2O
solvent | CH3OH | 10 ml | CO | CH4O
product | 4,4-di-(1H-indolyl-)butanoic acid | N1(C=CC2=CC=CC=C12)C(CCC(=O)O)N1C=CC2=CC=CC=C12 | C20H18N2O2
